### PR TITLE
chapter 2 exercise 3a and b

### PR DESCRIPTION
**Pull request by twinunit1**
I'll see if I can make the second solution more succinct
(This is Natasha)

### CODE REVIEW

File: src/chapter02/exercises/exercise03.lean [hunk 1]
```diff
@@ -7,13 +7,31 @@ def rational (x : ℝ) :=
...
 lemma part_a : ∀ {a b : ℝ}, rational a → rational b → rational (a * b) :=
 begin
-  sorry
+  intros a b,
+  rintro ⟨x1,y1,h1⟩ ⟨x2,y2,h2⟩,
+  use [x1*x2, y1*y2],
+  simp,
+  ring_nf,
+  rw [mul_inv, h1, h2],
+  ring_nf,
```
Comment (kbuzzard) [inline src/chapter02/exercises/exercise03.lean]: I golfed your proof a bit. First, instead of that `h1` you can use the `rfl` trick; this just completely replaces `a` with x1/y1 so you don't need the `rw h1` in line 15. I think `ring_nf` is just basically applying `div_eq_mul_inv`. The `push_cast` tactic moves all the coercion arrows as tightly to the variables as possible, which I thought made it easier.
```
  rintro a b ⟨x1,y1,rfl⟩ ⟨x2,y2,rfl⟩,
  use [x1*x2, y1*y2],
  push_cast,
  simp only [div_eq_mul_inv, mul_inv],
  ring,
```

File: src/chapter02/exercises/exercise03.lean [hunk 2]
```diff
@@ -7,13 +7,31 @@ def rational (x : ℝ) :=
...
 end
 
 /-- The product of two irrational numbers is not always irrational. -/
 lemma part_b : ¬ ∀ {a b : ℝ}, irrational a → irrational b → irrational (a * b) :=
 begin
-  sorry
+  simp,
```
Comment (kbuzzard) [inline src/chapter02/exercises/exercise03.lean]: This is a non-terminal `simp` which is bad; if people add other `simp` lemmas to mathlib then this proof might break. Why not use `push_neg` instead? That's what this tactic is for. Your proof might need some minor rearranging afterwards but nothing serious.

File: src/chapter02/exercises/exercise03.lean [hunk 3]
```diff
@@ -7,13 +7,31 @@ def rational (x : ℝ) :=
...
 
 /-- The product of two irrational numbers is not always irrational. -/
 lemma part_b : ¬ ∀ {a b : ℝ}, irrational a → irrational b → irrational (a * b) :=
 begin
-  sorry
+  simp, 
+  use real.sqrt 2, 
+  split,
+  {exact irrational_sqrt_two,},
+  {use 1/(real.sqrt 2),
```
Comment (kbuzzard) [inline src/chapter02/exercises/exercise03.lean]: Oh wow, why do you make it more complicated for yourself! Why not use sqrt 2 again? By the way if you `open real` you can just write `sqrt 2` instead of `real.sqrt 2`.

File: src/chapter02/exercises/exercise03.lean [hunk 4]
```diff
@@ -7,13 +7,31 @@ def rational (x : ℝ) :=
...
+  split,
+  {apply irrational.of_inv,
+  simp,
+  exact irrational_sqrt_two,},
```
Comment (kbuzzard) [inline src/chapter02/exercises/exercise03.lean]:
```suggestion
simp [irrational_sqrt_two],
```
works and doesn't use a non-terminal `simp`.

**Review by kbuzzard — APPROVED** [review]
Nice work, thank you! This is pretty clean and concise Lean code. I made some minor golfing suggestions. Don't use non-terminal `simp`s.

File: src/chapter02/exercises/exercise03.lean [hunk 5]
```diff
@@ -7,13 +7,26 @@ def rational (x : ℝ) :=
...
 
 /-- The product of two irrational numbers is not always irrational. -/
 lemma part_b : ¬ ∀ {a b : ℝ}, irrational a → irrational b → irrational (a * b) :=
 begin
-  sorry
+  push_neg,
+  use [real.sqrt 2, real.sqrt 2],
+  split,
+  { exact irrational_sqrt_two },
+  { split,
```
Comment (kbuzzard) [inline src/chapter02/exercises/exercise03.lean]: You can do all of `use` and `split` and `exact` with the `refine` tactic. Try this:
```
  refine ⟨real.sqrt 2, real.sqrt 2, irrational_sqrt_two, irrational_sqrt_two, _⟩,
```
on line 21, and that can be used to replace the first five lines of your proof.

**Review by kbuzzard — CHANGES_REQUESTED** [review]
Can you add the following to the very top of the file:
```
/-
Copyright (c) 2022 Kevin Buzzard. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Kevin Buzzard, [add your name here]
-/
```
and add your name in some form (unless you actively don't want to).
